US04927942
The procedure of Example 1 was followed except that 40 g of 1-isopropyl-2-methylimidazoline and 5 g of Raney nickel were charged. GLC analysis showed that an 84% yield of 1-isopropyl-2-methyl imidazole was obtained with 98% conversion of imidazoline.

reactant | 1-isopropyl-2-methylimidazoline | 40 g | C(C)(C)N1C(=NCC1)C | C7H14N2
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 1-isopropyl-2-methyl imidazole | 84% yield | C(C)(C)N1C(=NC=C1)C | C7H12N2
